*
*ZETEX  ZVN2110A Mosfet Spice Subcircuit - Last Revision 3/5/00
*
.SUBCKT ZVN2110A 3 4 5
*               D G S
M1 3 2 5 5 MN2110a
M2 3 2 5 5 MN2110b
RG 4 2 200
RL 3 5 1E9
C1 2 5 50E-12
C2 3 2 5E-12
D1 5 3 DN2110a
*
.MODEL MN2110a NMOS VTO=2 RS=.1 RD=1.8 IS=1E-15 KP=0.3
+CBD=60E-12 PB=1 LAMBDA=2.6E-3
.MODEL MN2110b NMOS VTO=0.9 RS=2 KP=0.1 PB=1 LAMBDA=2.6E-3
.MODEL DN2110a D IS=1E-12 RS=0.37
.ENDS ZVN2110A
*
*$
*
*                          (C)  1997 ZETEX PLC
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex PLC ("Zetex").  They  are  supplied  free of charge by
*   Zetex for the purpose of research and design and may be used or
*   copied intact  (including this notice)  for  that purpose only.
*   All other rights are reserved. The models are believed accurate
*   but  no condition  or warranty  as to their  merchantability or
*   fitness for purpose is given and no liability in respect of any
*   use is accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham, Lancashire.  
*              OL9 8NP   UK
